US08445510B2
3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine
A mixture of 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (9.00 mg, 0.0209 mmol), 4-bromo-1-methyl-3-(trifluoromethyl)-1H-pyrazole (9.57 mg, 0.0418 mmol), Pd(PPh3)4 (1.21 mg, 0.00104 mmol), K2CO3 (0.00866 g, 0.0627 mmol) and 4:1 dioxane:H2O (0.8 mL, 8 mmol) was heated in a microwave reactor at 95° C. for 20 min. The solution was used directly for HPLC purification, and the fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.78 (d, J=7.1 Hz, 3H), 3.62 (br. s., 3H), 3.96 (s, 3H), 5.08 (q, J=6.9 Hz, 1H), 6.86 (dd, J=9.1, 4.3 Hz, 1H), 7.01-7.09 (m, 1H), 7.35 (d, J=1.3 Hz, 1H), 7.52 (s, 1H), 7.78 (s, 1H), 8.10 (d, J=2.0 Hz, 1H). MS (ES+): m/z=453.11/455.11 (100/50) [MH+]. HPLC: tR=1.36 min (polar—3 min, UPLC-ACQUITY).

reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0209 mmol, 9.00 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | 4-bromo-1-methyl-3-(trifluoromethyl)-1H-pyrazole | 0.0418 mmol, 9.57 mg | BrC=1C(=NN(C1)C)C(F)(F)F | C5H4BrF3N2
reactant | K2CO3 | 0.0627 mmol, 0.00866 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 8 mmol, 0.8 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.00104 mmol, 1.21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2)C)C(F)(F)F | C21H17ClF4N4O
